US09034882B2
(S)-methyl 2-(tert-butoxy)-2-(7-chloro-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate was dissolved in NMP (1 mL) and combined with 2-azaspiro[4.4]nonane (8.72 mg, 0.070 mmol) and N,N-diisopropylethylamine (27 mg, 0.21 mmol). This mixture was stirred at rt for 24 h. A 1M lithium hydroxide solution (0.348 mL, 0.348 mmol) was added to the reaction mixture and it was heated at 50° C. for 4 h to complete the ester hydrolysis. The reaction mixture was concentrated in vacuo and purified by Biotage (4 g column, 0-10% MeOH/CH2Cl2 ramp) to give 11.1 mg (27% yield) of S)-2-(tert-butoxy)-2-(5-methyl-2-phenyl-7-(2-azaspiro[4.4]nonan-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic (1:1 solvate with NMP) as a yellow waxy solid.

reactant | (S)-methyl 2-(tert-butoxy)-2-(7-chloro-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=NC=2N(C1Cl)N=C(C2)C2=CC=CC=C2)C | C20H22ClN3O3
reactant | 2-azaspiro[4.4]nonane | 0.070 mmol, 8.72 mg | C1NCCC12CCCC2 | C8H15N
reactant | N,N-diisopropylethylamine | 0.21 mmol, 27 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | lithium hydroxide | 0.348 mmol, 1M, 0.348 mL | [OH-].[Li+]
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | (S)-2-(tert-butoxy)-2-(5-methyl-2-phenyl-7-(2-azaspiro[4.4]nonan-2-yl)pyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 11.1 mg, 27% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1N1CC3(CC1)CCCC3)N=C(C2)C2=CC=CC=C2)C | C27H34N4O3
